US20010001101A1
A mixture of 8-amino-4-chloro-3-ethoxycarbonylquinoline (0.3 g) and ethyl 2-ethoxymethyleneacetoacetate (Annalen, 1897, 297, 16, 0.25 g) was heated at 90° C. for 2.5 hours. The mixture was cooled to ambient temperature and the resulting solid added to diphenyl ether at reflux. The mixture was refluxed for 45 minutes, and cooled to 60° C. The mixture was diluted with carbon tetrachloride (50 ml) and cooled to ambient temperature with stirring. The mixture was filtered and the solid so obtained purified by flash chromatography on silica using increasingly polar mixtures of methanol and chloroform. The product so obtained was recrystallised from methanol to give 3-acetyl-7-chloro-8-ethoxycarbonyl-4-oxo-3,4-dihydro-1,10-phenanthroline in 29% yield, mp 288-290° C.

reactant | 8-amino-4-chloro-3-ethoxycarbonylquinoline | 0.3 g | NC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)Cl | C12H11ClN2O2
reactant | ethyl 2-ethoxymethyleneacetoacetate | 0.25 g | C(C)OC=C(C(=O)OCC)C(=O)C | C9H14O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-acetyl-7-chloro-8-ethoxycarbonyl-4-oxo-3,4-dihydro-1,10-phenanthroline | 29% yield | C(C)(=O)C1C=NC2=C3N=CC(=C(C3=CC=C2C1=O)Cl)C(=O)OCC | C17H13ClN2O4
